US07399867B2
Combine toluene (200 mL), 2-benzyloxy-1-bromo-6-methoxy-naphthalene (30 g, 87.4 mmol), 4-(2-piperidin-1-yl-ethoxy)phenol (23.2 g, 105 mmol) and cesium carbonate (34.4 g, 105 mmol), heat the mixture to reflux. Remove a portion of the toluene (100 mL). Add ethyl acetate (390 mg, 4.37 mmol) and copper triflate benzene complex (2.20 g, 4.37 mmol) to the reaction mixture and stir for 5 minutes. Remove the solvent by distillation and heat the resulting residue to 174° C. for 1.5 hours. Dissolve the residue in a mixture of ethyl acetate (200 mL) and aqueous HCl (1 N, 90 mL). Separate and concentrate the organics to a residue. Column chromatograph the residue to give 12.4 g of 1-{2-[4-(2-benzyloxy-6-methoxy-naphthalen-1-yloxy)-phenoxy]-ethyl}-piperidine (30%).

reactant | 2-benzyloxy-1-bromo-6-methoxy-naphthalene | 87.4 mmol, 30 g | C(C1=CC=CC=C1)OC1=C(C2=CC=C(C=C2C=C1)OC)Br | C18H15BrO2
reactant | 4-(2-piperidin-1-yl-ethoxy)phenol | 105 mmol, 23.2 g | N1(CCCCC1)CCOC1=CC=C(C=C1)O | C13H19NO2
reactant | cesium carbonate | 105 mmol, 34.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | 4.37 mmol, 390 mg | C(C)(=O)OCC | C4H8O2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 1-{2-[4-(2-benzyloxy-6-methoxy-naphthalen-1-yloxy)-phenoxy]-ethyl}-piperidine | 12.4 g, 30% | C(C1=CC=CC=C1)OC1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(OCCN2CCCCC2)C=C1 | C31H33NO4
